US04959366
(A) 1-[N-Methyl-N-(4-nitrophenethyl)amino]-2-hydroxypropane
A solution of N-methyl-4-nitrophenethylamine (1.8 g) and propylene oxide (0.66 g) in ethanol (50 ml) was stirred at reflux for 5 hours. After evaporation to dryness the residual orange oil was chromatographed on silica (37 Kieselgel 60" - Trade Mark) eluting with ethyl acetate followed by collection and evaporation of suitable fractions to give the title compound as a yellow oil.

reactant | N-methyl-4-nitrophenethylamine | 1.8 g | CNCCC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O2
reactant | propylene oxide | 0.66 g | C1C(C)O1 | C3H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-[N-Methyl-N-(4-nitrophenethyl)amino]-2-hydroxypropane | CN(CCC1=CC=C(C=C1)[N+](=O)[O-])CC(C)O | C12H18N2O3
